US07074800B1
To a solution of ethyl 7-chloro-5-methoxyindole-2-carboxylate (82 mg, 0.323 mmol) in dichloromethane (5 ml) at −78° C. was added boron tribromide (1.07 ml of a 1.0M solution in DCM, 1.07 mmol) and the reaction stirred at −78° C. for 30 minutes then allowed to warm to ambient temperature overnight. Water was carefully added and the pH adjusted to pH 6–7 by addition of 2M sodium hydroxide. The mixture was extracted with ethyl acetate (2×50 ml), and the organic solution washed with brine, dried (MgSO4), filtered and evaporated to give ethyl 7-chloro-5-hydroxyindole-2-carboxylate (55 mg, 71%) as an orange solid.

reactant | ethyl 7-chloro-5-methoxyindole-2-carboxylate | 0.323 mmol, 82 mg | ClC=1C=C(C=C2C=C(NC12)C(=O)OCC)OC | C12H12ClNO3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | ethyl 7-chloro-5-hydroxyindole-2-carboxylate | 55 mg, 71% | ClC=1C=C(C=C2C=C(NC12)C(=O)OCC)O | C11H10ClNO3
